US07691882B2
2-(4-Fluoro-benzyl)-5-(2-nitro-ethyl)-furan
To a solution of 2-(4-fluoro-benzyl)-5-((E)-2-nitro-vinyl)-furan (1.21 g, 4.89 mmol) described in Manufacturing Example 208-1-3 in acetic acid (0.6 mL) and dimethyl sulfoxide (10 mL) was added sodium borohydride (296 mg, 7.82 mmol), which was stirred for 30 minutes at room temperature. The mixture was cooled with ice water and partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (1.14 g). The title compound was used in the following reaction without any further purification.

reactant | 2-(4-fluoro-benzyl)-5-((E)-2-nitro-vinyl)-furan | 4.89 mmol, 1.21 g | FC1=CC=C(CC=2OC(=CC2)\C=C\[N+](=O)[O-])C=C1 | C13H10FNO3
reactant | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
reactant | sodium borohydride | 7.82 mmol, 296 mg | [BH4-].[Na+]
solvent | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
product | 2-(4-Fluoro-benzyl)-5-(2-nitro-ethyl)-furan | 1.14 g | FC1=CC=C(CC=2OC(=CC2)CC[N+](=O)[O-])C=C1 | C13H12FNO3
